US08314138B2
A solution of 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid benzylamide (0.2 g, 0.61 mmol) in dimethyl sulfoxide (5 mL) was treated with 4-fluorophenoxyethyl bromide (0.14 g, 0.67 mmol) and potassium carbonate (0.30 g, 2.0 mmol), and the reaction mixture was heated to 90° C. for 16 hr. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (50 mL), and washed with brine (2×50 mL). The organic phase was dried (Na2SO4) and evaporated. The residue was purified by preparative thin layer chromatography over silica gel (methylene chloride:methanol, 95:5) to provide 2-{1-[2-(4-fluoro-phenoxy)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid benzylamide (0.071 g, 51% yield) as a white solid.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid benzylamide | 0.61 mmol, 0.2 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C15H14N4OS
reactant | 4-fluorophenoxyethyl bromide | 0.67 mmol, 0.14 g | FC1=CC=C(OCCBr)C=C1 | C8H8BrFO
reactant | potassium carbonate | 2.0 mmol, 0.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-{1-[2-(4-fluoro-phenoxy)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid benzylamide | 0.071 g, 51% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NN(C=C1)CCOC1=CC=C(C=C1)F)C | C23H21FN4O2S
